US05476866
5-cyclopropyl-N-(4-bromo-3-methylphenyl)-isoxazole-4-carboxamide
3.33 g (21.7 mmol) of 5-cyclopropylisoxazole-4-carboxylic acid and 25 ml of thionyl chloride were refluxed for 90 minutes and after the thionyl chloride was evaporated in vacuo, the residue was azeotroped twice with toluene. 4.0 g (21.7 mmol) of 4- bromo-3-methyl-aniline were dissolved in 125 ml of dry dichloromethane, cooled to 0° C. and the acid chloride and 2.4 g (30 mmol) of pyridine each dissolved in 10 ml of dichloromethane, were added dropwise simultaneously. After stirring for thirty minutes at 0° C., the reaction mixture was washed 3 times with 75 ml of brine, dried over MgSO4 and the dichloromethane was removed in vacuo to yield a brown oil. Flash column chromatography (2% MeOH, 98% CH2Cl2) yielded a pale brown oil which crystallized upon standing. Crystallization from ethanol/water yielded the desired product as cream needles melting at 133°-135° C.

reactant | 5-cyclopropylisoxazole-4-carboxylic acid | 21.7 mmol, 3.33 g | C1(CC1)C1=C(C=NO1)C(=O)O | C7H7NO3
reactant | thionyl chloride | 25 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 4- bromo-3-methyl-aniline | 21.7 mmol, 4.0 g | BrC1=C(C=C(N)C=C1)C | C7H8BrN
reactant | pyridine | 30 mmol, 2.4 g | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 125 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | MeOH | CO | CH4O
product | 5-cyclopropyl-N-(4-bromo-3-methylphenyl)-isoxazole-4-carboxamide | C1(CC1)C1=C(C=NO1)C(=O)NC1=CC(=C(C=C1)Br)C | C14H13BrN2O2
